US06555584B1
3-(4-Methoxybenzyloxy)-N-(2-sulfamoylphenyl)benzamide
A benzene (30 ml) solution containing 4.00 g (15.5 mmol) of 3-(4-methoxybenzyloxy)benzoic acid and 3 ml of thionyl chloride was heated under reflux for 2 hours and then the solvent was evaporated under a reduced pressure. The resulting residue was dissolved in methylene chloride (30 ml), this solution was added dropwise under ice-cooling to a pyridine (50 ml) solution containing 2.93 g (17.0 mmol) of 2-aminobenzenesulfonamide, the mixture was stirred at room temperature for 18 hours and then methylene chloride was evaporated under a reduced pressure. The resulting residue was dissolved in ethyl acetate, washed with a 1 N hydrochloric acid aqueous solution, water and saturated brine in that order and dried over anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure. The thus obtained residue was purified by a silica gel chromatography to obtain 1.5 g (yield: 31.0%) of the title compound.

reactant | 3-(4-methoxybenzyloxy)benzoic acid | 15.5 mmol, 4.00 g | COC1=CC=C(COC=2C=C(C(=O)O)C=CC2)C=C1 | C15H14O4
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-aminobenzenesulfonamide | 17.0 mmol, 2.93 g | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 3-(4-Methoxybenzyloxy)-N-(2-sulfamoylphenyl)benzamide | 1.5 g, yield: 31.0% | COC1=CC=C(COC=2C=C(C(=O)NC3=C(C=CC=C3)S(N)(=O)=O)C=CC2)C=C1 | C21H20N2O5S
